US09107916B2
A. 2,3-dihydro-1-benzofuran-7-ylmethanol
Added BH3 (1M in THF, 9 mL) to a solution of 2,3-dihydro-1-benzofuran-7-carboxylic acid (481 mg, 2.93 mmol) in THF (7 mL) drop wise at 0° C., thereto, the mixture was stirred at room temperature overnight. Extracted with ethyl acetate twice, and washed the organic phase with brine and dried with anhydrous Na2SO4, concentrated to give the title compound (340 mg, 77%). 1H NMR (400 MHz, CDCl3): δ 2.09 (1H, s), 3.22 (2H, t, J=8.8 Hz), 4.61 (2H, t, J=8.8 Hz), 4.67 (2H, s), 6.83 (1H, t, J=7.6 Hz), 7.08 (1H, d, J=7.2 Hz), 7.14 (1H, d, J=7.2 Hz).

reactant | 2,3-dihydro-1-benzofuran-7-carboxylic acid | 2.93 mmol, 481 mg | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2,3-dihydro-1-benzofuran-7-ylmethanol | 340 mg, 77% | O1CCC2=C1C(=CC=C2)CO | C9H10O2
